US04250094
In the manner given in Example 1, 1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine was reacted with diethylamine in the presence of sodium iodide to give 1-[(diethylamino)methyl]-6-(o-chlorophenyl)4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | ClCC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C17H12Cl2N4
reactant | diethylamine | C(C)NCC | C4H11N
reactant | sodium iodide | [I-].[Na+]
product | 1-[(diethylamino)methyl]-6-(o-chlorophenyl)4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)N(CC)CC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=CC=C1 | C21H22ClN5
